US05840751
5,6-Dihydro-3-(4-chloro-2-isopropylphenylthio)-4-hydroxy-6,6-diphenyl-2H-pyran-2-one
The title compound was prepared as described in General Method 6 from 2.0 mmol of 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (prepared in example AAA), 2.1 mmol of 4-chloro-2-isopropylbenzenethiol, and 2.1 mmol of piperidine in 30 mL of dichloromethane. The product was chromatographed on silica gel, eluting first with chloroform and then with 5% methanol in chloroform (m.p. 95°-96° C.). 1H NMR (DMSO-d6) δ 1.16 (d, 6 H), 3.23 (m, 1 H), 3.73 (bs, 2 H), 5.60 (d, 1 H), 6.45 (d, 1 H), 7.14 (d, 1 H), 7.32-7.48 (m, 10 H).

reactant | 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | 2.0 mmol | BrC=1C(OC(CC1O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H13BrO3
reactant | 4-chloro-2-isopropylbenzenethiol | 2.1 mmol | ClC1=CC(=C(C=C1)S)C(C)C | C9H11ClS
reactant | piperidine | 2.1 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 5,6-Dihydro-3-(4-chloro-2-isopropylphenylthio)-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | ClC1=CC(=C(C=C1)SC=1C(OC(CC1O)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(C)C | C26H23ClO3S
